US07910592B2
A solution of diisobutyl aluminum hydride in toluene (1M, 652 μL, 0.652 mmol) was added to a stirred solution of a 3:1 mixture of ethyl 3-iodoquinoline-2-carboxylate and 3-methylbutyl 3-iodoquinoline-2-carboxylate (100 mg, 0.297 mmol) in dry THF (3 mL) at 0° C. under N2. The reaction was stirred for 4 h at 0° C. The reaction was quenched with saturated NH4Cl (5 mL) and water (5 mL) and extracted with EtOAc (3×20 mL). The combined extracts were dried (Na2SO4) and concentrated in vacuo to give the crude product. Sodium borohydride was added to a stirred solution of the crude product in EtOH (3 mL) and the reaction was stirred at room temperature for 20 min. The reaction was diluted with water (10 mL) and extracted with EtOAc (3×20 mL). The combined extracts were washed with brine, dried (Na2SO4) and concentrated in vacuo to give the crude product. This was purified by flash chromatography (Si, 12×160 mm, 0-50% EtOAc in hexanes gradient) to afford (3-iodoquinolin-2-yl)methanol, as a colorless solid. Rf=0.88 (50% EtOAc/hexanes). LCMS calc.=286.0; found=286.0 (M+1)+. 1H NMR (500 MHz, CDCl3): δ 8.56 (s, 1H); 8.03 (d, J=8.4 Hz, 1H); 7.74-7.71 (m, 1H); 7.70 (d, J=8.1 Hz, 1H); 7.54 (t, J=7.1 Hz, 1H); 4.90 (br s, 1H); 4.78 (s, 2H).

reactant | diisobutyl aluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | toluene | 0.652 mmol, 1M, 652 μL | C1(=CC=CC=C1)C | C7H8
reactant | ethyl 3-iodoquinoline-2-carboxylate | IC=1C(=NC2=CC=CC=C2C1)C(=O)OCC | C12H10INO2
reactant | 3-methylbutyl 3-iodoquinoline-2-carboxylate | 0.297 mmol, 100 mg | IC=1C(=NC2=CC=CC=C2C1)C(=O)OCCC(C)C | C15H16INO2
reactant | Sodium borohydride | [BH4-].[Na+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | EtOH | 3 mL | CCO | C2H6O
solvent | water | 10 mL | O | H2O
product | (3-iodoquinolin-2-yl)methanol | IC=1C(=NC2=CC=CC=C2C1)CO | C10H8INO
